US05932571
According to the procedure of Tet. Let. 35, 5997-6000 (1994), combine 4-(1-(2-hydroxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane (10 mmol) and di-t-butyl dicarbonate (10 mmol) in tetrahydrofuran (100 mmol). After 18 hours, evaporate in vacuo to give 1-t-butoxycarbonyl-4-(1-(2-hydroxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane. Combine 1-t-butoxycarbonyl-4-(1-(2-hydroxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane (0.66 g, 1.84 mmol) and 1,1'-(azodicarbonyl)dipiperidine (0.50 g, 2 mmol) in toluene (20 mL). Add tributylphosphine (0.5 mL, 2 mmol). After 10 minutes, add 2,2,2-trifluoroethanol (0.7 mL, 10 mmol). Heat to 55° C. After 6 hours, cool to ambient temperature. After 18 hours, concentrate the reaction mixture to give a residue. Chromatograph the residue on silica gel eluting sequentially with hexane and then 30% ethyl acetate/hexane to give 1-t- butoxycarbonyl-4-(1-(2-(2,2,2-trifluoroethoxy)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane.

reactant | 4-(1-(2-hydroxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | 10 mmol | OCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | C14H20N4O
reactant | di-t-butyl dicarbonate | 10 mmol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | tetrahydrofuran | 100 mmol | O1CCCC1 | C4H8O
product | 1-t-butoxycarbonyl-4-(1-(2-hydroxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCO)C=CC=C2 | C19H28N4O3
